US20010010895A1
Preparation of 6-decyloxypurine (IEH-A):
1-Decanol (13 ml, 68.2 mmol) was added in one portion to a stirred suspension of a 60% dispersion of sodium hydride in oil (2.70 g, 67.5 mmol) in dry tetrahydrofuran (70 ml) under an atmosphere of nitrogen. Gas was evolved. After 0.5 h 6-chloropurine (3.00 g, 19.4 mmol) was added and the suspension heated at reflux for 3.5 h. The tetrahydrofuran was removed in vacuo and the residue suspended in dilute hydrochloric acid (200 ml). The acidic suspension was stirred for 1 h then neutralised with saturated sodium hydrogen carbonate solution. The suspension was stirred vigorously with 60-80 petroleum ether (500 ml) and the solid removed by filtration. The solid was recrystallised from methanol to give a white solid (3.29 g, 11.9 mmol, 61%).

reactant | 1-Decanol | 68.2 mmol, 13 ml | C(CCCCCCCCC)O | C10H22O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloropurine | 19.4 mmol, 3.00 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 6-decyloxypurine | 11.9 mmol, 3.29 g, 61% | C(CCCCCCCCC)OC1=C2NC=NC2=NC=N1 | C15H24N4O
